US04699652
1.2 g of 3-(2,4-dichlorophenyl)-2-(3-pyridyl)-1,2-butanediol are dissolved under argon in 19 ml of N,N-dimethylformamide and treated at -15° C. with 0.12 g of sodium hydride (99%). The mixture is left to come to 0° C. and stirred at this temperature for 6 hours and 0.4 ml of ethyl iodide is added thereto. There thereby results a red-orange colored suspension which, after stirring at 0° C. for 1 hour, is treated with 20 ml of saturated aqueous sodium bicarbonate solution and subsequently evaporated under a pressure of 0.1 mmHg in order to remove the solvent. The residue is taken up in water and the aqueous solution extracted with ethyl acetate, and the organic phase is washed with saturated aqueous sodium chloride solution and then evaporated to dryness under reduced pressure. The oily residue is purified by chromatography on silica gel with diethyl ether/n-hexane (17:3) and it is recrystallized from methylene chloride/n-hexane. In this manner there is obtained 0.7 g of α-ethoxymethyl-α-(2,4-dichloro-α-methylbenzyl)-3-pyridinemethanol as colorless crystals, m.p. 86° C.

reactant | 3-(2,4-dichlorophenyl)-2-(3-pyridyl)-1,2-butanediol | 1.2 g | ClC1=C(C=CC(=C1)Cl)C(C(CO)(O)C=1C=NC=CC1)C | C15H15Cl2NO2
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | ethyl iodide | 0.4 ml | C(C)I | C2H5I
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
product | α-ethoxymethyl-α-(2,4-dichloro-α-methylbenzyl)-3-pyridinemethanol | 0.7 g | C(C)OCC(O)(C=1C=NC=CC1)C(C1=C(C=C(C=C1)Cl)Cl)C | C17H19Cl2NO2
